US07235555B2
3-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)-naphthalen-1-yl]-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione
2-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)-naphthalen-1-yl]-acetamide (100 mg, 0.30 mmol) and (1-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester (97 mg, 0.44 mmol) are azeotroped three times with dry THF and then dissolved in dry THF (3 ml). A solution of 1.0 M KOtBu in THF (1.2 ml) is added dropwise over 20 minutes at RT. After 5 minutes, TLC analysis indicates complete conversion of starting materials. The reaction is quenched by the additon of water (5 ml). The mixture is diluted with EtOAc and washed twice with saturated aq. NH4Cl. The aqueous layers are back extracted twice with EtOAc. The combined organic layers are dried over Na2SO4 and the solvent is evaporated. The residue is purified by FCC EtO/Ac/AcOH/H2O 800:55:45) to afford the title compound as its acetate salt. The compound is dissolved in MeOH/TFA and the solvent is removed to yield the title compound as its trifluoroacetate salt. 1H NMR (DMSO, 400 MHz) δ 0.95 (M, 4H), 3.39 (br, 4H), 3.49 (br, 2H), 3.86 (s, 3H), 6.16 (d, J=7.9 Hz, 1H), 6.46 (dd, J=6.6/7.9 Hz, 1H), 7.00 (dd, J=/7.9 Hz, 1H), 7.13 (dd, J=7.6/7.6 Hz, 1H), 7.40 (m, 4H), 7.55 (d, J=8.5 Hz, 1H), 7.78 (d, J=7.6 Hz, 1H), 8.14 (s, 1H), 9.10 (br, 2H), 11.17 (s, 1H); ES-MS: 463 [M+H]+.

reactant | 2-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)-naphthalen-1-yl]-acetamide | 0.30 mmol, 100 mg | C1CC12NCCN(C2)C=2C=C(C1=CC=CC=C1C2)CC(=O)N | C18H21N3O
reactant | (1-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.44 mmol, 97 mg | COC(C(=O)C1=CN(C2=CC=CC=C12)C)=O | C12H11NO3
reactant | KOtBu | 1.0 M | CC(C)(C)[O-].[K+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 1.2 ml | C1CCOC1 | C4H8O
product | 3-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)-naphthalen-1-yl]-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | C1CC12NCCN(C2)C=2C=C(C1=CC=CC=C1C2)C=2C(NC(C2C2=CN(C1=CC=CC=C21)C)=O)=O | C29H26N4O2
